US07888366B2
To a cold (ice water) suspension of sodium hydride (222 mg; 5.0 mmol) in anhydrous DMF (4 mL) is added a solution of 2-bromobenzyl alcohol (941 mg; 5.0 mmol) in anhydrous DMF (5 mL) over 10 minutes. After allowing to room temperature over 45 minutes, this solution is added to a cold (ice water) stirred solution of 2,6-difluorobenzonitrile (703 mg; 5.0 mmol) in anhydrous DMF (3 mL), and allowed to room temperature over 4 hours. The reaction mixture is poured into ice water with vigorous stirring and the resulting solid is filtered, washed with water, and dried under vacuum at 40° C. for 3 hours to give 1.27 grams of 2-fluoro-6-(2-bromobenzyloxy)-benzonitrile.

reactant | sodium hydride | 5.0 mmol, 222 mg | [H-].[Na+]
reactant | 2-bromobenzyl alcohol | 5.0 mmol, 941 mg | BrC1=C(CO)C=CC=C1 | C7H7BrO
reactant | 2,6-difluorobenzonitrile | 5.0 mmol, 703 mg | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-fluoro-6-(2-bromobenzyloxy)-benzonitrile | 1.27 grams | FC1=C(C#N)C(=CC=C1)OCC1=C(C=CC=C1)Br | C14H9BrFNO
